US07494999B2
Indan-1-carboxylic acid 4-nitro-benzyl ester:
To a solution of 3H-Indene-1-carboxylic acid (2.0 g, 13.3 mmol) in ethanol (35 mL) was added 10% Pd/C (200 mg). The reaction mixture was stirred under an H2 atmosphere for 1 h. The mixture was filtered through Celite and concentrated in vacuo. The residue was combined with p-nitrobenzyl bromide (5.8 g, 26.8 mmoles) and 1,8-diazabicyclo[5.4.0]undec-7-ene (2.4 mL, 16.0 mmol) in 65 mL of benzene, and was stirred at 50° C. for 20 hours. After this period the heterogeneous mixture was gravity filtered and the filtrate was evaporated in vacuo. The residue was combined with CH2Cl2 and was washed with 1N HCl (2×25 mL) and sat'd NaHCO3 (2×25 mL), and the resulting CH2Cl2 solution was dried over anhydrous Na2SO4. The crude solid was purified using flash silica chromatography (0-10% EtOAc/Hexane) to yield 3.61 g (95%) of the intermediate.

reactant | 3H-Indene-1-carboxylic acid | 13.3 mmol, 2.0 g | C1(=CCC2=CC=CC=C12)C(=O)O | C10H8O2
reactant | p-nitrobenzyl bromide | 26.8 mmoles, 5.8 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 16.0 mmol, 2.4 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | ethanol | 35 mL | C(C)O | C2H6O
solvent | benzene | 65 mL | C1=CC=CC=C1 | C6H6
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | Indan-1-carboxylic acid 4-nitro-benzyl ester | 3.61 g, 95% | [N+](=O)([O-])C1=CC=C(COC(=O)C2CCC3=CC=CC=C23)C=C1 | C17H15NO4
